US04062862
To the chloroform solution containing perbenzoic acid prepared from 29 g of benzoyl peroxide was added 6.5 g of o-methoxyallylbenzene dissolved in 20 ml of chloroform, and the mixture was allowed to stand at 0° - 5° C for 3 days. The resulting mixture was washed with 10% sodium hydroxide solution, Mohr's salt solution and then water, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was distilled under reduced pressure to give 2.9 g (yield 41%) of 2-ethoxyallylbenzene oxide as pale yellow clear liquid having a boiling point of 120° - 121° C/9 mmHg.

reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 29 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | o-methoxyallylbenzene | 6.5 g | COC=CCC1=CC=CC=C1 | C10H12O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxyallylbenzene oxide | 2.9 g, yield 41% | C(C)OC(CC12C(C=CC=C1)O2)=C | C11H14O2
